US09447211B2
(1) Preparation of Tert-Butoxyhexane-1-Thiol
After 73.2 g of 1-tert-butoxy-6-chlorohexane (0.38 mol), 38 g of thiourea (0.5 mol), and 30 ml of distilled water were put into a 500 ml two-necked flask equipped with a condenser and refluxed at 120° C. for 5 hours, a temperature was cooled to room temperature, and 300 ml of a previously prepared aqueous solution of NaOH (30 g) was added thereto and refluxed at 110° C. for 14 hours. The reactant was cooled to room temperature, the formed organic layer was extracted with ether and dried over MgSO4, and then the solvent was removed under reduced pressure, thereby obtaining 55.6 g of an oily product (6-tert-butoxyhexane-1-thiol, yield 76.9 mol %). Purity of the product confirmed through gas chromatography (GC) analysis was 97%, and results of proton nuclear magnetic resonance (1H-NMR) spectroscopy were as follows.

reactant | 1-tert-butoxy-6-chlorohexane | 0.38 mol, 73.2 g | C(C)(C)(C)OCCCCCCCl | C10H21ClO
reactant | thiourea | 0.5 mol, 38 g | NC(=S)N | CH4N2S
reactant | NaOH | 30 g | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
product | Tert-Butoxyhexane-1-Thiol | 55.6 g | C(C)(C)(C)OC(CCCCC)S | C10H22OS
